US07176316B2
A solution of (+/−)-8-(cis 2-phenyl-cyclohexyl)-1,4-dioxa-8-aza-spiro[4,5]decane (44.8 g) in MeOH (100 ml) and 6N HCl (445 ml) was heated to reflux for 16 h. The reaction mixture was then made basic with solid sodium carbonate, extracted with dichloromethane, dried over sodium sulphate, filtered and evaporated. The crude product was purified by flash chromatography over silica gel with n-heptane as eluent. (+/−)-1-(cis-2-phenyl-cyclohexyl)-piperidin-4-one (28.8 g, 75%) was obtained as a sticky yellow oil, MS (ISP): m/e=258.3 (M+H+).

reactant | (+/−)-8-(cis 2-phenyl-cyclohexyl)-1,4-dioxa-8-aza-spiro[4,5]decane | 44.8 g | C1(=CC=CC=C1)[C@@H]1[C@@H](CCCC1)N1CCC2(OCCO2)CC1 | C19H27NO2
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | MeOH | 100 ml | CO | CH4O
solvent | HCl | 6N, 445 ml | Cl | ClH
product | (+/−)-1-(cis-2-phenyl-cyclohexyl)-piperidin-4-one | 28.8 g, 75% | C1(=CC=CC=C1)[C@@H]1[C@@H](CCCC1)N1CCC(CC1)=O | C17H23NO
